US07407963B2
cis-3-{1-[2-(4-chlorobenzoyl)cyclopropanecarbonyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone (Item No. 1)
A mixture of 1.0 g (4.452 mmol) of trans-2-(4-chlorobenzoyl)cyclopropanecarboxylic acid, 0.97 g (4.194 mmol) of 3,4-dihydro-3-(4-piperidinyl)-2(1H)-quinazolinone, 1.4 g (4.36 mmol) of TBTU, 0.455 mg (4.5 mmol) of triethylamine, and 20 mL of dimethylformamide was stirred for 5 hours at ambient temperature. The reaction mixture was freed from solvent in vacuo, diluted with 300 mL of water, and made slightly acidic with citric acid. The precipitate formed was suction filtered and carefully washed with water, then with 5 mL of tetrahydrofuran, and finally dried in a circulating air drier at a temperature of 60° C. 1.3 g (71% of theoretical) of a colorless crystalline product was obtained: m.p. 272° C.-273° C.; Rf 0.24 (MP A); IR (KBr): 1674.1 cm−1 (C═O); MS: M+=437/439 (Cl).

reactant | trans-2-(4-chlorobenzoyl)cyclopropanecarboxylic acid | 4.452 mmol, 1.0 g | ClC1=CC=C(C(=O)[C@H]2[C@@H](C2)C(=O)O)C=C1 | C11H9ClO3
reactant | 3,4-dihydro-3-(4-piperidinyl)-2(1H)-quinazolinone | 4.194 mmol, 0.97 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
reactant | TBTU | 4.36 mmol, 1.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 4.5 mmol, 0.455 mg | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | KBr | [K+].[Br-]
solvent | water | 300 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | cis-3-{1-[2-(4-chlorobenzoyl)cyclopropanecarbonyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone | ClC1=CC=C(C(=O)[C@@H]2[C@@H](C2)C(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)C=C1 | C24H24ClN3O3
